* Coriolis Structural SPICE Driver
* Generated on Apr 13, 2025, 00:44
* Cell/Subckt "rot_r".
* 
* INTERF vss
* INTERF vdd
* INTERF rotated_bits[7]
* INTERF rotated_bits[6]
* INTERF rotated_bits[5]
* INTERF rotated_bits[4]
* INTERF rotated_bits[3]
* INTERF rotated_bits[2]
* INTERF rotated_bits[1]
* INTERF rotated_bits[0]
* INTERF k[2]
* INTERF k[1]
* INTERF k[0]
* INTERF bits[7]
* INTERF bits[6]
* INTERF bits[5]
* INTERF bits[4]
* INTERF bits[3]
* INTERF bits[2]
* INTERF bits[1]
* INTERF bits[0]

* Terminal models (aka standard cells) used througout all the hierarchy.
.include mux2_x1.spi
.include decap_w0.spi
.include inv_x0.spi
.include tie.spi

* Non-terminal models (part of the user's design hierarchy).

.subckt rot_r 0 1 2 3 4 5 6 7 8 9 10 11 12 14 15 16 17 18 19 20 21
* NET     0 = vss
* NET     1 = vdd
* NET     2 = rotated_bits[7]
* NET     3 = rotated_bits[6]
* NET     4 = rotated_bits[5]
* NET     5 = rotated_bits[4]
* NET     6 = rotated_bits[3]
* NET     7 = rotated_bits[2]
* NET     8 = rotated_bits[1]
* NET     9 = rotated_bits[0]
* NET    10 = k[2]
* NET    11 = k[1]
* NET    12 = k[0]
* NET    13 = blockagenet
* NET    14 = bits[7]
* NET    15 = bits[6]
* NET    16 = bits[5]
* NET    17 = bits[4]
* NET    18 = bits[3]
* NET    19 = bits[2]
* NET    20 = bits[1]
* NET    21 = bits[0]
* NET    22 = abc_171_new_n43
* NET    23 = abc_171_new_n41
* NET    24 = abc_171_new_n39
* NET    25 = abc_171_new_n38
* NET    26 = abc_171_new_n36
* NET    27 = abc_171_new_n35
* NET    28 = abc_171_new_n33
* NET    29 = abc_171_new_n32
* NET    30 = abc_171_new_n30
* NET    31 = abc_171_new_n29
* NET    32 = abc_171_new_n27
* NET    33 = abc_171_new_n26
* NET    34 = abc_171_new_n25
* NET    35 = abc_171_new_n24
* NET    36 = abc_171_new_n23
* NET    37 = abc_171_new_n22
* NET    38 = abc_171_new_n21
* NET    39 = abc_171_new_n20

xsubckt_5_mux2_x1 1 0 14 18 12 34 mux2_x1
xsubckt_14_mux2_x1 1 0 28 30 10 7 mux2_x1
xsubckt_19_mux2_x1 1 0 25 29 11 24 mux2_x1
xfeed_0 1 0 decap_w0
xsubckt_1_inv_x0 1 0 10 38 inv_x0
xsubckt_0_inv_x0 1 0 11 39 inv_x0
xfeed_1 1 0 decap_w0
xfeed_2 1 0 decap_w0
xfeed_3 1 0 decap_w0
xfeed_4 1 0 decap_w0
xfeed_5 1 0 decap_w0
xfeed_6 1 0 decap_w0
xfeed_7 1 0 decap_w0
xfeed_8 1 0 decap_w0
xfeed_9 1 0 decap_w0
xsubckt_21_mux2_x1 1 0 27 33 39 23 mux2_x1
xsubckt_3_mux2_x1 1 0 15 19 12 36 mux2_x1
xsubckt_12_mux2_x1 1 0 19 15 12 29 mux2_x1
xsubckt_17_mux2_x1 1 0 26 28 10 6 mux2_x1
xfeed_10 1 0 decap_w0
xfeed_11 1 0 decap_w0
xfeed_12 1 0 decap_w0
xfeed_13 1 0 decap_w0
xfeed_14 1 0 decap_w0
xfeed_15 1 0 decap_w0
xfeed_16 1 0 tie
xfeed_17 1 0 decap_w0
xfeed_18 1 0 decap_w0
xfeed_19 1 0 decap_w0
xsubckt_8_mux2_x1 1 0 32 35 38 9 mux2_x1
xsubckt_24_mux2_x1 1 0 22 23 10 3 mux2_x1
xfeed_20 1 0 decap_w0
xfeed_21 1 0 decap_w0
xfeed_22 1 0 decap_w0
xfeed_23 1 0 tie
xfeed_24 1 0 decap_w0
xfeed_25 1 0 tie
xfeed_26 1 0 decap_w0
xfeed_27 1 0 decap_w0
xfeed_28 1 0 decap_w0
xfeed_29 1 0 decap_w0
xspare_feed_13 1 0 decap_w0
xspare_feed_12 1 0 tie
xspare_feed_11 1 0 tie
xspare_feed_10 1 0 decap_w0
xsubckt_10_mux2_x1 1 0 31 34 11 30 mux2_x1
xsubckt_6_mux2_x1 1 0 16 20 12 33 mux2_x1
xsubckt_15_mux2_x1 1 0 18 14 12 27 mux2_x1
xfeed_39 1 0 decap_w0
xspare_feed_14 1 0 tie
xspare_feed_15 1 0 tie
xfeed_30 1 0 decap_w0
xfeed_31 1 0 decap_w0
xfeed_32 1 0 decap_w0
xfeed_33 1 0 decap_w0
xfeed_34 1 0 decap_w0
xfeed_35 1 0 tie
xfeed_36 1 0 decap_w0
xfeed_37 1 0 decap_w0
xfeed_38 1 0 decap_w0
xsubckt_22_mux2_x1 1 0 23 24 10 4 mux2_x1
xfeed_46 1 0 decap_w0
xfeed_45 1 0 decap_w0
xfeed_44 1 0 decap_w0
xfeed_43 1 0 decap_w0
xfeed_42 1 0 decap_w0
xfeed_41 1 0 decap_w0
xfeed_40 1 0 tie
xsubckt_4_mux2_x1 1 0 36 37 39 35 mux2_x1
xsubckt_13_mux2_x1 1 0 29 37 11 28 mux2_x1
xfeed_49 1 0 decap_w0
xfeed_48 1 0 decap_w0
xfeed_47 1 0 decap_w0
xspare_feed_9 1 0 tie
xspare_feed_8 1 0 tie
xspare_feed_7 1 0 decap_w0
xspare_feed_6 1 0 tie
xspare_feed_5 1 0 tie
xspare_feed_4 1 0 decap_w0
xspare_feed_3 1 0 tie
xspare_feed_2 1 0 tie
xspare_feed_1 1 0 tie
xspare_feed_0 1 0 tie
xsubckt_9_mux2_x1 1 0 20 16 12 31 mux2_x1
xsubckt_18_mux2_x1 1 0 17 21 12 25 mux2_x1
xfeed_53 1 0 tie
xfeed_52 1 0 decap_w0
xfeed_51 1 0 decap_w0
xfeed_50 1 0 decap_w0
xsubckt_20_mux2_x1 1 0 24 26 10 5 mux2_x1
xfeed_59 1 0 decap_w0
xfeed_58 1 0 decap_w0
xfeed_57 1 0 decap_w0
xfeed_56 1 0 decap_w0
xfeed_55 1 0 decap_w0
xfeed_54 1 0 tie
xsubckt_25_mux2_x1 1 0 22 32 38 2 mux2_x1
xsubckt_2_mux2_x1 1 0 21 17 12 37 mux2_x1
xsubckt_11_mux2_x1 1 0 30 35 10 8 mux2_x1
xfeed_60 1 0 decap_w0
xsubckt_7_mux2_x1 1 0 33 34 39 32 mux2_x1
xsubckt_16_mux2_x1 1 0 27 31 11 26 mux2_x1
xfeed_68 1 0 decap_w0
xfeed_67 1 0 decap_w0
xfeed_66 1 0 decap_w0
xfeed_65 1 0 decap_w0
xfeed_64 1 0 decap_w0
xfeed_63 1 0 decap_w0
xfeed_62 1 0 decap_w0
xfeed_61 1 0 decap_w0
xsubckt_23_mux2_x1 1 0 25 36 39 22 mux2_x1
.ends rot_r
